Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Heart racing, tremor
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ y/o male with a history of rheumatoid arthritis, 
eczema who presents with ___ weeks of heart racing and shortness 
of breath.  He has had a mild tremor in his hands at rest but 
more recently has felt like a "full body tremor"  + insomnia, 
some "puffiness" in face and legs, has problems with bowels that 
he attributes to lactose intolerance.  No neck pain, no prior 
viral URI symptoms.  Progressive dyspnea on exertion.  Does 
sweat with exertion but he attributes that to his hip pain.  His 
roommate persuaded him to get evaluated for this so he went to a 
___ clinic where his heart rate was found to be in the 140s, 
so he was sent to the ED.  HR in ED 140-150, he was given 
metoprolol 25 mg.  
He endorses long term heavy caffeine use - consumes about 2 pots 
of coffee a day as well as caffeinated beverages.  Does not 
consume much water.  He does not like seeing doctors and ___ not 
seen one in some time. 
 
Past Medical History:
1  Rheumatoid arthritis - diagnosed when he was in high school, 
mainly affected left hip.  He was advised to have a hip 
replacement but he did not want to do that at a young age.  Has 
left hip stiffness and pain
2  eczema
3. iritis
 
Social History:
___
Family History:
No known thyroid disorders in family.
 
Physical Exam:
ADMISSION EXAM
--------------
AF 93 123/77
Gen:  NAD, very pleasant
No exophthalmos
No obvious lid lag
No thyroid bruit or thyromegaly 
EOM intact
Lung:  CTA V
CV:  Tachycardic
Abd:  Obese, soft
Ext:  Trace edema
+ fine resting tremor visible with outstretched hands. 
Skin:  + erythematous scaly patches visible on hands 

DISCHARGE EXAM
--------------
VS: 98.0 124/81 102 18 98% on RA
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  No exophthalmos
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, regular and tachycardic, no murmurs, rubs or gallops.  

RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  No diaphoresis noted
Neuro:  non-focal.  
PSYCH: Appropriate and calm.  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 01:50PM BLOOD WBC-11.4* RBC-4.86 Hgb-12.9* Hct-39.7* 
MCV-82 MCH-26.5 MCHC-32.5 RDW-13.4 RDWSD-39.3 Plt ___
___ 01:50PM BLOOD Neuts-71.5* Lymphs-15.7* Monos-11.9 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-8.15* AbsLymp-1.79 
AbsMono-1.36* AbsEos-0.02* AbsBaso-0.03
___ 01:50PM BLOOD Plt ___
___ 01:50PM BLOOD ___ PTT-41.4* ___
___ 01:50PM BLOOD Glucose-86 UreaN-19 Creat-0.7 Na-137 
K-4.4 Cl-98 HCO3-21* AnGap-22*
___ 01:50PM BLOOD Calcium-10.3 Phos-3.7 Mg-1.6
___ 02:06PM BLOOD D-Dimer-394
___ 01:50PM BLOOD TSH-<0.01*
___ 01:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:56PM BLOOD Lactate-1.2
___ 02:07PM BLOOD Lactate-2.5*

IMAGING
-------
CXR on admission:
No acute cardiopulmonary abnormality.

DISCHARGE LABS
--------------
___ 09:05AM BLOOD WBC-5.7 RBC-4.22* Hgb-11.2* Hct-35.1* 
MCV-83 MCH-26.5 MCHC-31.9* RDW-13.3 RDWSD-40.0 Plt ___
___ 09:05AM BLOOD Glucose-135* UreaN-15 Creat-0.5 Na-142 
K-3.9 Cl-105 HCO3-26 AnGap-15
___ 09:05AM BLOOD Calcium-9.4 Phos-3.3 Mg-1.7
___ 01:50PM BLOOD antiTPO-201*
 
Brief Hospital Course:
___ y/o male with h/o rheumatoid arthritis, iritis, eczema 
presents with palpitations and shortness of breath.  Labs 
notable for suppressed TSH, elevated T3 and T4.

# Hyperthyroidism:  No clear exophthalmos suggestive of Graves 
disease; his burden of autoimmune disease makes it likely that 
an auto-immune process is driving his hyperthyroidism.  T3 and 
T4 elevated, with TSI pending.  Endocrinology was consulted and 
recommended starting methimazole and propranolol.  He will 
follow up with Endocrine on ___, appointment time to 
be arranged.  Vital signs improved over course of stay.

# Dyspnea on exertion:  Likely multifactorial, driven by hip 
pain, deconditioning as well as tachycardia.  CXR normal.

# Tachycardia:  Due to hyperthyroidism, will continue 
propranolol

# Rheumatoid arthritis: patient was placed on ibuprofen

# Caffeine dependence:  Counselled on tapering caffeine use at 
home.

# Anxiety:  Has multiple stressors, but also likely worsened by 
his hyperthyroid state.   He was offered SW consultation which 
he declined.

TRANSITIONS OF CARE
-------------------
# Follow-up: patient will follow up with a new PCP.  He will 
follow up with Endocrine on ___, appointment time to 
be arranged. 

# Code status: Full  
 
Medications on Admission:
Celecoxib, unknown dose
 
Discharge Medications:
1. Methimazole 20 mg PO DAILY 
RX *methimazole 10 mg 2 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
2. Propranolol 10 mg PO TID 
RX *propranolol 10 mg 1 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0
3. Celecoxib, unknown dose

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyperthyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your visit to ___.  
You came for further evaluation of shortness of breath and fast 
heart beat.  You were found to have high thyroid hormone levels 
(hyperthyroidism).  You were seen by Endocrinology and they 
prescribed a new medication called methimazole.

It is important that you continue to take your medications as 
prescribed and follow up with your appointments listed below.
 
Followup Instructions:
___